US07265149B2
In analogy to the procedure described in example 20 b], 5-iodomethyl-1-methyl-3-(4-trifluoromethyl-phenyl)-1H-pyrazole was reacted with ethyl acetate in the presence of lithium diisopropylamide and DMPU to obtain 3-[2-methyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-yl]-propionic acid ethyl ester as yellow solid.

reactant | 5-iodomethyl-1-methyl-3-(4-trifluoromethyl-phenyl)-1H-pyrazole | ICC1=CC(=NN1C)C1=CC=C(C=C1)C(F)(F)F | C12H10F3IN2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
solvent | DMPU | CN1CCCN(C1=O)C | C6H12N2O
product | 3-[2-methyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-yl]-propionic acid ethyl ester | C(C)OC(CCC=1N(N=C(C1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C16H17F3N2O2
